US07816552B2
N-[5-(4-Amino-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylamine (Step 2a)
To a solution of N-(5-chloro-2-nitrophenyl)-N-methylamine (4.0 g) in N,N-dimethylacetamide (56 ml) were added 4-amino-3,5-dimethylphenol (2.9 g) and potassium t-butoxide (2.9 g) with stirring under ice-cooling, and the resulting mixture was stirred at 75-80° C. for 1 hour. After stirring, water (74 ml) was added to the reaction mixture, and the resulting mixture was cooled gradually to room temperature. The crystals precipitated were collected by filtration and dried in vacuo to afford the title compound (4.9 g, yield: 80%) as a yellow crystalline solid.

reactant | N-(5-chloro-2-nitrophenyl)-N-methylamine | 4.0 g | ClC=1C=CC(=C(C1)NC)[N+](=O)[O-] | C7H7ClN2O2
reactant | 4-amino-3,5-dimethylphenol | 2.9 g | NC1=C(C=C(C=C1C)O)C | C8H11NO
reactant | potassium t-butoxide | 2.9 g | CC(C)([O-])C.[K+]
reactant | water | 74 ml | O | H2O
solvent | N,N-dimethylacetamide | 56 ml | CN(C(C)=O)C | C4H9NO
product | N-[5-(4-Amino-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylamine | 4.9 g, yield: 80% | NC1=C(C=C(OC=2C=CC(=C(C2)NC)[N+](=O)[O-])C=C1C)C | C15H17N3O3
